Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Dizziness, Left arm weakness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old left handed woman presenting with dizziness and left 
arm weakness. The patient reports starting a new medication, 
donepezil, about 1 week ago. Following this period in time she 
noted the onset of vertigo while standing up, which would 
resolve upon sitting down. She also noted, though not 
concurrently, that her left arm "felt weak." Onset of this 
sensation was slow over days. She reports difficulty reaching up 
to touch her forehead. There was no associated pain. She reports 
difficulty with handwriting because the pen jerks around the 
page. She does not have any hand weakness however, in that she 
has no difficulty in opening doorknobs or jars. The pt denied 
headache, loss of vision, blurred vision, diplopia, dysarthria, 
dysphagia. tinnitus or hearing difficulty. Denied difficulties 
producing or comprehending speech. No parasthesias. No bowel or 
bladder incontinence or retention. Denied difficulty with gait.  

  
In the emergency department, initial vitals: 13:54 0 97.9 72 
128/95 18 98. Not orthostatic. No gait abnormality. EKG- new TWI 
I, otherwise nonspecific change. CXR-atelectasis at RL base, no 
pna or effusion, large dilated air filled viscous in upper 
abdomen correlate clinically- no abd pain on exam. KUB given 
findings on CXR- non specific bowel gas pattern, need f/u final 
read. Cardiac enzymes- neg. WBC inc but U/A-neg and it appears 
to be chronically elevated. CT Head-neg. Neuro consult- no acute 
issue, no objective signs of weakness, symptoms may be related 
to Aricept, can d/c medicatoin and then get in touch with PCP to 
discuss--->per neuro added on Lithium level (mildly elevated). 
200 cc NS and 8 mg of IV Zofran given. Admitted for syncope w/u. 
 
  
On arrival to the floor, she states she is feeling somewhat 
depressed with suicidal ideation but no intent/plan. She feels 
safe now that she is hospitalized. She states that occasionally 
when she walks, she feels worried that she is going to fall but 
has not fallen as of yet. She has a mildly productive cough that 
has developed in the past 10 minutes.  
  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
COPD--Pt does not use 02 at home  
Hypothryoid  
Hyperlipidemia 
RLS 

PSYCHIATRIC HISTORY:  Per OMR, and patient interview:
Diagnosedwith schizoaffective disorder ___ years ago after having
her son. First hospitalization in ___ ___ after 
SA
by cutting wrists.  Several other SA, including OD, and
self-stabbing.  Reports associated ___ with some of these SA, 
but
reports no auditory hallucinations in ___ years. Pt relates that
last suicide attempt was ___ years ago, and that last psychiatric
hospitalization was ___ years ago prior to recent ___ 
admission
in ___ (5 days). Has had over 10 psychiatric
hospitalizations.  Has gone to day program at ___ over
past ___ years.
Psychiatrist: ___, MD at ___  ___
Therapist: ___ at ___ 
___

 
Social History:
___
Family History:
None known. 
 
Physical Exam:
VITAL SIGNS: T 96.7 BP 110/62 HR 61 RR 18 O2 94% on RA  
GENERAL: Pleasant, depressed appearing.  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. JVP not elevated.  
LUNGS: Occasional rhonchi that clear w/ coughing, good air 
movement biaterally.  
ABDOMEN: Distended but NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. Babinski 
equivocal. Normal coordination. Gait assessment deferred  
PSYCH: Endorses suicidal ideation but no plan, + more depressed 
recently about concern that her memory is failing her  

 
Pertinent Results:
___ 03:00PM   PLT COUNT-386
___ 03:00PM   NEUTS-83.1* LYMPHS-11.6* MONOS-3.6 EOS-1.4 
BASOS-0.2
___ 03:00PM   WBC-16.9* RBC-4.82 HGB-14.3 HCT-43.0 MCV-89 
MCH-29.8 MCHC-33.3 RDW-13.4
___ 03:00PM   LITHIUM-1.6*
___ 03:00PM   CALCIUM-11.4* PHOSPHATE-3.0 MAGNESIUM-2.1
___ 03:00PM   CK-MB-NotDone
___ 03:00PM   cTropnT-<0.01
___ 03:00PM   CK(CPK)-67
___ 03:00PM   estGFR-Using this
___ 03:00PM   GLUCOSE-98 UREA N-15 CREAT-1.0 SODIUM-136 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-23 ANION GAP-13
___ 03:31PM   ___ PTT-24.6 ___
___ 06:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-7.0 
LEUK-NEG
___ 06:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:18PM   CK-MB-NotDone
___ 09:18PM   cTropnT-<0.01
___ 09:18PM   CK(CPK)-45
.
CT Head (___):
There is no hemorrhage, edema, mass effect, or acute 
large vascular territory infarction. The gray-white matter 
differentiation is preserved. There is mild asymmetric frontal 
atrophy, but the ventricles and sulci are otherwise normal in 
caliber and configuration. Basal cisterns are preserved. There 
is no shift of normally midline structures. Calcifications are 
seen involving the cavernous and supraclinoid internal carotid 
arteries. The osseous structures demonstrate no fracture. There 
are no suspicious lytic 
or sclerotic lesions. The visualized paranasal sinuses and 
mastoid air cells are normally pneumatized and clear. 
.  
IMPRESSION: No acute intracranial process. 

 
Brief Hospital Course:
___ y/o female with a h/o schizoaffective disorder and 
hypothyroidism who presented with dizziness and was found to be 
hypercalcemic. The following issues were investigated during 
this hospitalization:
  
1. Dizziness: Onset of symptoms correlates with initiation of 
Aricept for short-term memory loss and this medication has been 
associated with dizziness. Patient received IVF upon arrival for 
hypercalcemia but was never found to be orthostatic. Aricept was 
held while in house with improvement in symptoms. Head CT 
unremarkable as was neuro exam. Patient was discharged with home 
___. She will not continue on Aricept. 
  
2.  Hypercalcemia: Patient with history of elevated PTH since 
___ with intermittently elevated calcium values. Calcium > 11 
on admission, but responsive to IVF. Calcium and vitamin D 
supplements discontinued but bisphosphonate continued. Endocrine 
consulted given concern for Lithium-induced hyperparathyroidism. 
24 hour urine calcium was low and consistent with 
Lithium-induced disease and not likely necessitating surgical 
intervention. Still, further work-up was deferred to the 
outpatient setting. Lithium was decreased, but maintained as the 
endocrinopathies are generally not reversed with stopping 
Lithium and mood-stabilization remains of concern. She will f/u 
her lithium levels with her outpatient psychiatrist Dr. ___. 
She will also f/u as an outpatient with endocrinology.

3. Diabetes Insipidus: Suggested by mildly elevated Na and 
chloride, in the setting of endocrinopathies in a patient on 
long-term Lithium. Patient was started on Amiloride at the 
recommendation of the endocrinology consult, with improvement in 
electrolyte derrangements. Patient was otherwise encouraged to 
remain hydrated. She will be discharged on amiloride. 
  
4. Schizoaffective d/o: Psychiatry was consulted given concern 
for suicidal ideations and depression as well as for guidance 
for Lithium. Patient was initially on a ___, requiring 
that she remain hospitalized with intention to be transferred to 
a psychiatric facility. However, as her hospitalization 
continued and her metabolic derrangements were corrected, her 
mood improved. The section was eventually lifted and the patient 
was restarted on Lithium at a lower dose with outpatient 
follow-up with her psychiatrist. 
  
5. Dementia: Per patient's outpatient psychologist, 
neuropsychological testing showed significant memory impairment 
and MRI showed vascular disease, suggesting a possible etiology 
of dementia. Patient had been started on Aricept as an 
outpatient, but this was held given the complaint of 
lightheadedness that started after initiation of medication. 

6. Hypothyroidism: Patient was maintained on outpatient 
Levothyroxine.

7. Osteoporosis: Calcium and Vitamin D were held given elevated 
calcium and PTh on presentation, though Alendronate was 
continued. 

8. Hyperlipidemia: Patient was maintained on outpatient statin. 

9. Leukocytosis: Chronic problem of unclear etiology. No obvious 
source of infection. ___ trended down during this 
hospitalization and thus work-up was not pursued. 

Full code

She was discharged with outpatient endocrine and psychiatry 
follow up.
 
Medications on Admission:
Aricept 5mg QHS (started 1 week ago)  
Simvastatin 40 mg daily  
levothyroxine 0.125 mg daily  
aspirin 81 mg daily  
iron daily  
alendronate 70 mg every week  
vitamin D 400 units b.i.d.  
calcium 400 mg b.i.d.  
lithium 300 mg ___ mg once qhs  
Risperdal 4 mg b.i.d.  
Seroquel 50 mg daily  
lorazepam 1 mg daily  
cilostazol 100 mg b.i.d.  
citalopram daily (dose unknown)  

 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Risperidone 2 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Cilostazol 100 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QSUN (every 
___.  
8. Quetiapine 100 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
9. Amiloride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
10. Lithium Carbonate 300 mg Capsule Sig: One (1) Capsule PO QHS 
(once a day (at bedtime)).
Disp:*30 Capsule(s)* Refills:*2*
11. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Lightheadedness
Hyperparathyroidism
Nephrogenic Diabetes Inspidus

Secondary: 
Schizoaffective disorder

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were seen and evaluated for left hand weakness and 
lightheadedness, which was felt to be due to a new medication 
you started - Aricept. This medication has been stopped. 
Additionally, you were noted to have an elevated calcium, which 
was due to a hormone problem called hyperparathyroidism. This 
hormone problem is likely due to Lithium, which you take and 
NEED to continue to take to control your mood. However, your 
Lithium dose has been decreased. Since your walking was unsteady 
but improved when you were discharged, you will have home ___ 
care. 

Take all of your medications as directed. Your Aricept, calcium 
and vitamin D have been stopped and your Lithium has been 
decreased. You were also started on a new medication, Amiloride, 
to help control your sodium level. It is important to stay very 
well hydrated.

Keep all of your follow-up appointments. They are listed below. 
Once you are discharged, you have an appointment with endocrine 
at 3PM today. It is very important that you keep this 
appointment. You will also need to follow up with your 
psychiatrist, Dr. ___, for management of your 
Lithium. The psychiatry team here will contact him and will make 
an appointment for you. 

Call your doctor or go to the ER for any of the following: chest 
pain, shortness of breath, fevers/chills, 
nausea/vomiting/diarrhea, worsened lightheadedness or falls, 
sudden slurred speech or weakness, headaches, vision changes, 
extreme fatigue, confusion or any other concerning symptoms. 
 
Followup Instructions:
___